US05756508
The methodology of D. L. Comins and J. D. Brown, Tetrahedron Letters, 1986, pp 4549-4552 was used: To a stirred solution of 2.5 g of 4-methoxypyridine in 75 mL of anhydrous tetrahydrofuran cooled to -23° C. under a nitrogen atmosphere was added 8 mL of 3M methylmagnesium chloride in tetrahydrofuran followed by 4 g of benzylchloroformate, keeping the internal temperature below -20° C. After stirring for 4 h at -25°±5° C., the reaction was quenched with 100 mL of 1N HCl and extracted with 5×100 mL portions of ether. The combined extracts were dried over MgSO4 and concentrated under reduced pressure. Further drying under vacuum gave 5.1 g of 2(R,S)-methyl-1-(benzyloxycarbonyl)-2,3-dihydro-4-pyridone as a greenish oil: TLC (25% EtOAc in hexane); 1H NMR (400 MHz, CDCl3) 7.75 (d, 1H), 7.4 (s, 5H), 5.30 (d, 1H), 5.26 (s, 2H), 4.7 (m, 1H), 2.82 (dd, 1H), 2.38 (d, 2H), 1.25 (t, 3H).

reactant | 4-methoxypyridine | 2.5 g | COC1=CC=NC=C1 | C6H7NO
reactant | methylmagnesium chloride | 3M, 8 mL | C[Mg]Cl
reactant | benzylchloroformate | 4 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 2(R,S)-methyl-1-(benzyloxycarbonyl)-2,3-dihydro-4-pyridone | 5.1 g | CC1N(C=CC(C1)=O)C(=O)OCC1=CC=CC=C1 | C14H15NO3
